US07666879B2
D. N-(5-tert-Butyl-isoxazol-3-yl)-2-(4-{7-[4-(2-diethylamino-ethanesulfonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-acetamide
Combine 2-(4-{7-[4-(2-Amino-ethanesulfonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-N-(5-tert-butyl-isoxazol-3-yl)-acetamide (0.87 g, 1.38 mmol) with acetic acid (1 mL), methanol (20 mL) and acetaldehyde (0.152 g, 3.45 mmol) at ambient temperature under nitrogen for 10 minutes. Add sodium cyanoborohydride at ambient temperature. The reaction is complete within 3 hours. Evaporate under vacuum, re-dissolved in methanol and dichloromethane and load onto an SCX column. Wash the column with dichloromethane (50 mL) and methanol (50 mL) and elute with methanolic ammonia. Chromatography on silica (0→2→4→5%) methanol and dichloromethane gives the title compound (21.0 mg). MS(ES), m/z 614 (M+1).

reactant | 2-(4-{7-[4-(2-Amino-ethanesulfonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-N-(5-tert-butyl-isoxazol-3-yl)-acetamide | 1.38 mmol, 0.87 g | NCCS(=O)(=O)C1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)CC(=O)NC2=NOC(=C2)C(C)(C)C | C30H31N5O4S
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 3.45 mmol, 0.152 g | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | N-(5-tert-Butyl-isoxazol-3-yl)-2-(4-{7-[4-(2-diethylamino-ethanesulfonyl)-phenyl]-imidazo[1,2-a]pyridin-3-yl}-phenyl)-acetamide | 21.0 mg | C(C)(C)(C)C1=CC(=NO1)NC(CC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C=C2)S(=O)(=O)CCN(CC)CC)=O | C34H39N5O4S
